US08183380B2
rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-(4-methyl-piperazin-1-yl)-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine and (4-methyl-piperazin-1-yl)-acetic acid; MS: m/e=434.3 (M+H+).

reactant | rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | (4-methyl-piperazin-1-yl)-acetic acid | CN1CCN(CC1)CC(=O)O | C7H14N2O2
product | rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-(4-methyl-piperazin-1-yl)-acetamide | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)NC(CN1CCN(CC1)C)=O | C25H28FN5O
